US08685970B2
A mixture of 2-chloro-N-(pyridin-3-yl)-3-(trifluoromethyl)quinoline-8-carboxamide (136 mg, 0.39 mmol), phenylboronic acid (62 mg, 0.51 mmol), Pd(dppf)Cl2.CH2Cl2 (39 mg, 0.048 mmol), K2CO3 (167 mg, 1.2 mmol) in dioxane/H2O (4:1, 3 ml) was heated (85° C.×2 hours) under a blanket of Nitrogen. The reaction mixture was evaporated, and the residue was triturated with ethyl acetate. The mixture was filtered, concentrated and the residue was purified by prep. HPLC to give 2-phenyl-N-(pyridin-3-yl)-3-(trifluoromethyl)quinoline-8-carboxamide as a white powder (62 mg, 41% yield). MS (ESI) calcd for C22H14F3N3O (m/z): 393.11. found: 394 [M+1].

reactant | 2-chloro-N-(pyridin-3-yl)-3-(trifluoromethyl)quinoline-8-carboxamide | 0.39 mmol, 136 mg | ClC1=NC2=C(C=CC=C2C=C1C(F)(F)F)C(=O)NC=1C=NC=CC1 | C16H9ClF3N3O
reactant | phenylboronic acid | 0.51 mmol, 62 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | CH2Cl2 | 0.048 mmol, 39 mg | C(Cl)Cl | CH2Cl2
reactant | K2CO3 | 1.2 mmol, 167 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane H2O | 3 ml | O1CCOCC1.O
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-phenyl-N-(pyridin-3-yl)-3-(trifluoromethyl)quinoline-8-carboxamide | 62 mg, 41% yield | C1(=CC=CC=C1)C1=NC2=C(C=CC=C2C=C1C(F)(F)F)C(=O)NC=1C=NC=CC1 | C22H14F3N3O
